US07956074B2
a) 2-Chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine
To a solution of 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (5.00 g, 23.0 mmol) in dichloromethane (100 mL) was added 6-chloronicotinic acid (4.71 g, 29.9 mmol) and 2-chloro-1,3-dimethylimidazolium chloride (8.56 g, 50.6 mmol). After the suspension was stirred for 15 min at ambient temperature, it was cooled to 0° C. and N,N-diisopropyl ethyl amine (19.7 mL, 115 mmol) was added slowly. The reaction mixture was stirred for 18 h while warming to ambient temperature. It was washed with aqueous sodium carbonate (saturated) and the aqueous layers were extracted with dichloromethane. Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate=80:20 to 50:50) afforded the title compound (4.78 g, 61%) as a light yellow solid. MS: m/e=339.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 23.0 mmol, 5.00 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 6-chloronicotinic acid | 29.9 mmol, 4.71 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 2-chloro-1,3-dimethylimidazolium chloride | 50.6 mmol, 8.56 g | [Cl-].ClC1=[N+](C=CN1C)C
reactant | N,N-diisopropyl ethyl amine | 115 mmol, 19.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 4.78 g, 61% | ClC1=NC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C17H11ClN4O2
